US07867629B2
Dissolving 5.0 g (25 mmol) of 4-bromoacetophenone and 5.0 g (25 mmol) of 2-aminobenzophenon into 50 milliliter of ethanol, adding 3.1 g of sodium hydroxide, the resultant suspension was refluxed under heating for 7 hours. After completion of the reaction, separation with filtration was carried out and resultant crystals were washed with water and ethanol, thereby obtaining 5.56 g of 2-(4-bromo-phenyl)-quinoline (yield: 61%).

reactant | 4-bromoacetophenone | 25 mmol, 5.0 g | CC(=O)C1=CC=C(C=C1)Br | C8H7BrO
reactant | 2-aminobenzophenon | 25 mmol, 5.0 g | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | sodium hydroxide | 3.1 g | [OH-].[Na+]
solvent | ethanol | 50 milliliter | C(C)O | C2H6O
product | 2-(4-bromo-phenyl)-quinoline | 5.56 g, yield: 61% | BrC1=CC=C(C=C1)C1=NC2=CC=CC=C2C=C1 | C15H10BrN
